US07435815B2
N,N-Diethyl-2-[(naphthalene-2-sulfonyl)-phenyl-amino]-acetamide
prepared by reaction of 2-bromoacetyl bromide with diethylamine, aniline and naphthalene-2-sulfonyl chloride

reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | diethylamine | C(C)NCC | C4H11N
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | naphthalene-2-sulfonyl chloride | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
product | N,N-Diethyl-2-[(naphthalene-2-sulfonyl)-phenyl-amino]-acetamide | C(C)N(C(CN(C1=CC=CC=C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)=O)CC | C22H24N2O3S
